### PR TITLE
feat: add `Bitvec.[(toInt, toFin)_twoPow, toNat_twoPow_of_le, toNat_twoPow_of_lt, toNat_twoPow_eq_ite]`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR contains `BitVec.(toInt, toFin)_twoPow` theorems, completing the API for `BitVec.*_twoPow`. It also expands the `toNat_twoPow` API with `toNat_twoPow_of_le`, `toNat_twoPow_of_lt`, as well as `toNat_twoPow_eq_if` and moves `msb_twoPow` up, as it is used in the `toInt_msb` proof.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3731,6 +3731,30 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
...
+  · by_cases h : w + 1 ≤ i
+    · simp [h]; norm_cast; omega
+    · simp only [toNat_shiftLeft, toNat_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow,
+      Int.ofNat_emod, h, ↓reduceIte, Nat.add_right_cancel_iff]
+      have hy : (2 ^ i % 2 ^  (w + 1)) = 2 ^ i := by rw [Nat.mod_eq_of_lt (by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega)]
+      have hj : 2 * 2 ^ i = 2 ^ (i + 1) := by rw [Nat.pow_add, Nat.mul_comm]
+      norm_cast
+      simp only [Nat.shiftLeft_eq, Nat.one_mul, hy, hj]
+      by_cases i + 1 =  (w + 1)
+      · simp [show i = w by omega]; omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3748]:
```suggestion
      by_cases i + 1 = (w + 1)
      · simp [show i = w by omega]; omega
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3731,6 +3731,30 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
...
+    (BitVec.twoPow w i).toInt = (if w ≤ i then 0 else if i + 1 = w then -1 <<< i else 1 <<< i : Int) := by
+  simp only [BitVec.twoPow, BitVec.toInt]
+  rcases w with _|w
+  · simp
+  · by_cases h : w + 1 ≤ i
+    · simp [h]; norm_cast; omega
+    · simp only [toNat_shiftLeft, toNat_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow,
+      Int.ofNat_emod, h, ↓reduceIte, Nat.add_right_cancel_iff]
+      have hy : (2 ^ i % 2 ^  (w + 1)) = 2 ^ i := by rw [Nat.mod_eq_of_lt (by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega)]
+      have hj : 2 * 2 ^ i = 2 ^ (i + 1) := by rw [Nat.pow_add, Nat.mul_comm]
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3744]: In fact, the entire second half of the proof would be a lot nicer, if we can make avoid the casts in the middle and just make this all simp away. I am wondering if there is a set of simp lemmas which could help here?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3713,6 +3713,22 @@ theorem toNat_twoPow (w : Nat) (i : Nat) : (twoPow w i).toNat = 2^i % 2^w := by
     have h1 : 1 < 2 ^ (w + 1) := Nat.one_lt_two_pow (by omega)
     rw [Nat.mod_eq_of_lt h1, Nat.shiftLeft_eq, Nat.one_mul]
 
+theorem toNat_twoPow_of_le {i w : Nat} (h : w ≤ i): (twoPow w i).toNat = 0 := by
+  rw [toNat_twoPow]
+  apply Nat.mod_eq_zero_of_dvd
+  exact Nat.pow_dvd_pow_iff_le_right'.mpr h
+
+theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w ): (twoPow w i).toNat = 2^i := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w) : (twoPow w i).toNat = 2^i := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -3713,6 +3713,22 @@ theorem toNat_twoPow (w : Nat) (i : Nat) : (twoPow w i).toNat = 2^i % 2^w := by
     have h1 : 1 < 2 ^ (w + 1) := Nat.one_lt_two_pow (by omega)
     rw [Nat.mod_eq_of_lt h1, Nat.shiftLeft_eq, Nat.one_mul]
 
+theorem toNat_twoPow_of_le {i w : Nat} (h : w ≤ i): (twoPow w i).toNat = 0 := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3716]:
```suggestion
theorem toNat_twoPow_of_le {i w : Nat} (h : w ≤ i) : (twoPow w i).toNat = 0 := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3721]:
```suggestion
theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w ) : (twoPow w i).toNat = 2^i := by
```

**Review by luisacicolini — COMMENTED** [review]
thank you @tobiasgrosser  for this cute proof! looks good to me :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -3713,6 +3713,22 @@ theorem toNat_twoPow (w : Nat) (i : Nat) : (twoPow w i).toNat = 2^i % 2^w := by
...
+  rw [toNat_twoPow]
+  apply Nat.mod_eq_zero_of_dvd
+  exact Nat.pow_dvd_pow_iff_le_right'.mpr h
+
+theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w ): (twoPow w i).toNat = 2^i := by
+  rw [toNat_twoPow]
+  apply Nat.mod_eq_of_lt
+  apply Nat.pow_lt_pow_of_lt (by omega) (by omega)
+
+theorem toNat_twoPow_eq_if {i w : Nat} : (twoPow w i).toNat = if i < w then 2^i else 0 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3726]: I would like for us to contemplate, in a subsequent PR, whether this should be the `simp` normal form of `toNat_twoPow`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -3731,6 +3747,32 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
...
+@[simp]
+theorem msb_twoPow {i w: Nat} :
+    (twoPow w i).msb = (decide (i < w) && decide (i = w - 1)) := by
+  simp only [BitVec.msb, getMsbD_eq_getLsbD, Nat.sub_zero, getLsbD_twoPow,
+    Bool.and_iff_right_iff_imp, Bool.and_eq_true, decide_eq_true_eq, and_imp]
+  intros
+  omega
+
+theorem toInt_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toInt = if w ≤ i then 0 else (2^i : Nat) * if i + 1 = w then (-1 : Int) else 1 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3759]:
```suggestion
theorem toInt_twoPow {w i : Nat} :
    (BitVec.twoPow w i).toInt =
    (if w ≤ i then 0 else (2^i : Nat)) * 
    (if i + 1 = w then (-1 : Int) else 1) := by
```

I know I was the one who suggested this, but I'm not certain what the perfect choice is, between the statement I proposed above, and the perhaps easier to think about:

```lean
theorem toInt_twoPow {w i : Nat} :
    (BitVec.twoPow w i).toInt =
    (if w ≤ i then 0
    else if i + 1 = w then 2^i else - 2^i := by 
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3759]: I can offer:

```lean
theorem toInt_twoPow {w i : Nat} :
    (BitVec.twoPow w i).toInt = if w ≤ i then 0 else if i + 1 = w then (-(2^i : Nat) : Int) else 2^i := by
  simp only [BitVec.toInt_eq_msb_cond, toNat_twoPow_eq_if]
  rcases w with _|w
  · simp
  · by_cases h : i = w
    · simp [h, show ¬ w + 1 ≤ w by omega]
      omega
    · by_cases h' : w + 1 ≤ i
      · simp [h', show ¬ i < w + 1 by omega]
      · simp [h, h', show i < w + 1 by omega, Int.natCast_pow]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -3713,6 +3713,22 @@ theorem toNat_twoPow (w : Nat) (i : Nat) : (twoPow w i).toNat = 2^i % 2^w := by
     have h1 : 1 < 2 ^ (w + 1) := Nat.one_lt_two_pow (by omega)
     rw [Nat.mod_eq_of_lt h1, Nat.shiftLeft_eq, Nat.one_mul]
 
+theorem toNat_twoPow_of_le {i w : Nat} (h : w ≤ i) : (twoPow w i).toNat = 0 := by
+  rw [toNat_twoPow]
+  apply Nat.mod_eq_zero_of_dvd
+  exact Nat.pow_dvd_pow_iff_le_right'.mpr h
+
+theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w ) : (twoPow w i).toNat = 2^i := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3721]:
```suggestion
theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w) : (twoPow w i).toNat = 2^i := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: I pushed this one.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3726]: I looked into this, but this breaks a couple of proofs in non-trivial ways, as several proofs use `% 2 ^ ?` instead of an if statement. Happy to investigate this, but given that this is not a clear-cut, we should investigate this more broadly.

**Comment by luisacicolini** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:3726]: Happy to look into this in a subsequent PR, I'd get this PR moving in the meantime.

**Review by bollu — APPROVED** [review]
LGTM.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -4122,6 +4122,22 @@ theorem toNat_twoPow (w : Nat) (i : Nat) : (twoPow w i).toNat = 2^i % 2^w := by
...
+theorem toNat_twoPow_of_lt {i w : Nat} (h : i < w) : (twoPow w i).toNat = 2^i := by
+  rw [toNat_twoPow]
+  apply Nat.mod_eq_of_lt
+  apply Nat.pow_lt_pow_of_lt (by omega) (by omega)
+
+theorem toNat_twoPow_eq_if {i w : Nat} : (twoPow w i).toNat = if i < w then 2^i else 0 := by
+  by_cases h : i < w
+  · simp only [h, toNat_twoPow_of_lt, if_true]
+  · simp only [h, if_false]
+    rw [toNat_twoPow_of_le (by omega)]
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4139]: indeed, it did not work

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -4140,6 +4156,33 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
           simp at hi
         simp_all
 
+@[simp]
+theorem msb_twoPow {i w: Nat} :
+    (twoPow w i).msb = (decide (i < w) && decide (i = w - 1)) := by
+  simp only [BitVec.msb, getMsbD_eq_getLsbD, Nat.sub_zero, getLsbD_twoPow,
+    Bool.and_iff_right_iff_imp, Bool.and_eq_true, decide_eq_true_eq, and_imp]
+  intros
+  omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4165]:
```suggestion
  simp [BitVec.msb, getMsbD_eq_getLsbD]
  omega
```

**Review by tobiasgrosser — APPROVED** [review]
This LGTM. Thank you, @luisacicolini.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4165]: thank you, but this proof was upstreamed already - I just moved the theorem up (was previously at line 4156). I would suggest opening a new PR with this change, to avoid unnecessary complexity in this PR.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4165]: Fine with me. Can you close this comment then?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -4140,6 +4156,33 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
...
+
+theorem toInt_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toInt = if w ≤ i then 0 
+      else if i + 1 = w then (-(2^i : Nat) : Int) else 2^i := by
+  simp only [BitVec.toInt_eq_msb_cond, toNat_twoPow_eq_ite]
+  rcases w with _|w
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:4171]:
```suggestion
  rcases w with _ | w
```

**Review by hargoniX — CHANGES_REQUESTED** [review]
